US06083990
Tamoxifen methiodide was prepared by reacting 2.0 g of tamoxifen (Aldrich Chemical Co., St. Louis, Mo.) with methyl iodide at 0° C. for 24 hours. Ethyl acetate was then added to afford a white precipitate, which was recrystallized from methanol to yield >99% tamoxifen methiodide. Tamoxifen benzyl bromide was synthesized by reacting tamoxifen with benzyl bromide.

reactant | tamoxifen | 2.0 g | CC/C(=C(\C=1C=CC=CC1)/C=2C=CC(=CC2)OCCN(C)C)/C=3C=CC=CC3 | C26H29NO
reactant | methyl iodide | CI | CH3I
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tamoxifen methiodide | >99% | CC/C(=C(\C1=CC=CC=C1)/C2=CC=C(C=C2)OCC[N+](C)(C)C)/C3=CC=CC=C3.[I-] | InChI=1S/C27H32NO.HI/c1-5-26(22-12-8-6-9-13-22)27(23-14-10-7-11-15-23)24-16-18-25(19-17-24)29-21-20-28(2,3)4;/h6-19H,5,20-21H2,1-4H3;1H/q+1;/p-1/b27-26-;
